US09403807B2
Step A: Methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate
A mixture of methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate (500 mg), as described in Example 3 Step A, in 10 mL of 4 N HCl/MeOH was stirred at room temperature for 1 h. Then the solvent was removed. The residue was dissolved in EA (30 mL) and pH value was adjusted to 9˜10 with saturated aq. NaHCO3. The organic layers was washed with water (10 mL), brine, dried over sodium sulfate and concentrated to give the title product as a pale brown solid. LC/MS m/z=343.2 [M+H]+.

reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | 500 mg | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C24H27ClN2O4
solvent | HCl MeOH | 4 N, 10 mL | Cl.CO
product | Methyl 2-(4-amino-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C19H19ClN2O2
